US04506079
A mixture of 3-p-toluenesulfonyloxypropyleneglycol acetonide (2 molar equivalents), 5-bromo-1-p-toluenesulfonyl-4-oxo-4,5,6,7-tetrahydroindole (100 parts), hydrochloric acid (1 molar equivalent) and benzene (500 to 2000 parts) is refluxed for 21 hours under azeotropic dehydration. After cooling, the reaction mixture is adjusted to pH 10 with 5N-sodium hydroxide, shaken and water layer drained. Organic layer is washed with water, (100 parts) and dried over anhydrous sodium sulfate (50 parts). The drying agent is removed by filtration. The filtrate is then concentrated under reduced pressure at a temperature below 50° C. to leave amorphous 4'-p-toluenesulfonyloxy-1-p-toluenesulfonyl-5-bromo-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]-dioxolane diastereomer mixture in 42% yield. The product is shown in Table I, Part 6, No. 18.

reactant | 3-p-toluenesulfonyloxypropyleneglycol acetonide | 2 molar | [CH2-]C(=O)C.C1(=CC=C(C=C1)S(=O)(=O)OCC(CO)O)C
reactant | 5-bromo-1-p-toluenesulfonyl-4-oxo-4,5,6,7-tetrahydroindole | BrC1C(C=2C=CN(C2CC1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C15H14BrNO3S
reactant | hydrochloric acid | 1 molar | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-p-toluenesulfonyloxy-1-p-toluenesulfonyl-5-bromo-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]-dioxolane | 42% yield | C1(=CC=C(C=C1)S(=O)(=O)OC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C)C | C24H24BrNO7S2
